US05668140
Preparation of 4-hydroxy-5-methoxy-6-methoxymethylpyrimidine
To 750 ml of 12% strength hydrogen peroxide, heated to 80° C., there were added in portions 101 g (0.5 mol) of 4-hydroxy-2-mercapto-5-methoxy-6-methoxymethylpyrimidine in such a way that a temperature of 80° C. was maintained. Stirring was then continued for 2 hours at 80° C. After cooling, solid sodium disulfite was added until potassium iodide/starch paper no longer showed a reaction with peroxide, and the mixture was then neutralized by adding potassium carbonate. The water was distilled off, and the solid residue, to which a little ethanol had been added, was then suspended in methylene chloride and subjected to filtration with suction. After concentration of the filtrate, 63 g (70% of theory) of product of melting point 141°-143° C. were obtained.

reactant | hydrogen peroxide | OO | H2O2
reactant | 4-hydroxy-2-mercapto-5-methoxy-6-methoxymethylpyrimidine | 0.5 mol, 101 g | OC1=NC(=NC(=C1OC)COC)S | C7H10N2O3S
reactant | sodium disulfite | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4-hydroxy-5-methoxy-6-methoxymethylpyrimidine | OC1=NC=NC(=C1OC)COC | C7H10N2O3
